US04438270
A mixture of 1 g of 3-acetyloxy-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid and 1 g of 2,5-diamino-2-difluoromethylvaleric acid chloride wherein the free amino groups are protected with tert-butoxycarbonyl in 50 ml of ethylacetate is refluxed for 2 hours after which the solvent is removed leaving a residue which is treated with mild acid and chromatographed on silica gel using benzene-acetone as the eluant to give 7-[[2,5-diamino-2-difluoromethylvaleryl]amino]-3-acetyloxymethyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid.

reactant | 3-acetyloxy-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 1 g | C(C)(=O)OC1=C(N2C(C(C2SC1)N)=O)C(=O)O | C9H10N2O5S
reactant | 2,5-diamino-2-difluoromethylvaleric acid chloride | 1 g | NC(C(=O)Cl)(CCCN)C(F)F | C6H11ClF2N2O
reactant | ethylacetate | 50 ml | C(C)OC(C)=O | C4H8O2
product | 7-[[2,5-diamino-2-difluoromethylvaleryl]amino]-3-acetyloxymethyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | NC(C(=O)NC1C2SCC(=C(N2C1=O)C(=O)O)COC(C)=O)(CCCN)C(F)F | C16H22F2N4O6S
